US05643878
a: Z-(L)-Tyr-morpholin-4-ylamide
9.08 g (44 mmol) of DCC are added to an ice-cooled suspension of 14.04 g (40 mmol) of Z-(L)-Tyr-OH in 750 ml of methylene chloride and the mixture is stirred for 20 min. Subsequently, 10.81 g (80 mmol) of HOBT and a solution of 5.23 g (60 mmol) of morpholine in 50 ml of methylene chloride are added. The mixture is stirred for 18 h at RT and then filtered. The filtrate is washed with sat. NaHCO3 solution, water and brine and the aqueous phases are extracted with 2 portions of methylene chloride. The organic phases are dried with Na2SO4, concentrated by evaporation and subjected to column chromatography (SiO2, ethyl acetate) to yield the title compound: TLC Rf (B)=0.39.

reactant | DCC | 44 mmol, 9.08 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | Z-(L)-Tyr-OH | 40 mmol, 14.04 g | N([C@@H](CC1=CC=C(C=C1)O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C17H17NO5
reactant | HOBT | 80 mmol, 10.81 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | morpholine | 60 mmol, 5.23 g | N1CCOCC1 | C4H9NO
solvent | methylene chloride | 750 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | Z-(L)-Tyr morpholin-4-ylamide | N([C@@H](CC1=CC=C(C=C1)O)C(=O)O)C(=O)OCC1=CC=CC=C1.N1(CCOCC1)[NH-] | InChI=1S/C17H17NO5.C4H9N2O/c19-14-8-6-12(7-9-14)10-15(16(20)21)18-17(22)23-11-13-4-2-1-3-5-13;5-6-1-3-7-4-2-6/h1-9,15,19H,10-11H2,(H,18,22)(H,20,21);5H,1-4H2/q;-1/t15-;/m0./s1
